US09260375B2
To anhydrous tetrahydrofuran (5 mL) was added diisopropylamine (759 mg, 7.5 mmol) under nitrogen stream, and the mixture was cooled to −78° C. To the solution was added a 1.58 M n-butyl lithium-hexane solution (4.3 mL, 6.8 mmol), and the mixture was stirred at −78° C. for 5 min, and then at 0° C. for 15 min. The solution of lithium diisopropylamide tetrahydrofuran was cooled to −78° C., and a solution of benzyl propionate (821 mg, 5.0 mmol) in anhydrous tetrahydrofuran (10 mL) was added dropwise over 1 h, and the reaction mixture was further stirred at −78° C. for 1 h. The enolate thus prepared was added via a cannula to a solution of benzyl 3-methyl-2-ketobutyrate (1.24 g, 6.0 mmol) in anhydrous tetrahydrofuran (5 mL) having been cooled to −78° C. After stirring at −78° C. for 2 h, the reaction mixture was diluted with a 10% aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was washed with 1 M hydrochloric acid, saturated aqueous sodium hydrogen carbonate and brine, dried over anhydrous magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure, and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 9:1) to give 1.22 g of dibenzyl 2-isopropyl-2-hydroxy-3-methylsuccinate as oil (yield: 66%) in the form of a diastereomer mixture.

reactant | diisopropylamine | 7.5 mmol, 759 mg | C(C)(C)NC(C)C | C6H15N
reactant | lithium diisopropylamide tetrahydrofuran | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | benzyl propionate | 5.0 mmol, 821 mg | C(CC)(=O)OCC1=CC=CC=C1 | C10H12O2
reactant | benzyl 3-methyl-2-ketobutyrate | 6.0 mmol, 1.24 g | CC(C(C(=O)OCC1=CC=CC=C1)=O)C | C12H14O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | dibenzyl 2-isopropyl-2-hydroxy-3-methylsuccinate | 1.22 g, yield: 66% | C(C)(C)C(C(=O)OCC1=CC=CC=C1)(C(C(=O)OCC1=CC=CC=C1)C)O | C22H26O5
